US09328067B2
4-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)-N-[2-(pyrrolidin-1-yl)ethyl]benzamide
Following General Procedure R, the title compound (345 mg, 71%) was prepared from 4-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoic acid (410 mg, 0.765 mmol), 2-(pyrrolidin-1-yl)ethanamine (0.15 ml, 1.15 mmol), EDC (293 mg, 1.53 mmol) and DMAP (cat.) in DMF (5 ml).

reactant | 4-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoic acid | 0.765 mmol, 410 mg | ClC1=CC(=C(C=C1)SCC1=CC=C(C(=O)O)C=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C21H14Cl2F3NO4S2
reactant | 2-(pyrrolidin-1-yl)ethanamine | 1.15 mmol, 0.15 ml | N1(CCCC1)CCN | C6H14N2
reactant | EDC | 1.53 mmol, 293 mg
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)-N-[2-(pyrrolidin-1-yl)ethyl]benzamide | 345 mg, 71% | ClC1=CC(=C(C=C1)SCC1=CC=C(C(=O)NCCN2CCCC2)C=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C27H26Cl2F3N3O3S2
